US07888349B2
The method described in Part D of Example 365 was used to treat tert-butyl 2-[7-benzyloxy-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate (23.55 g, 50.43 mmol) with potassium tert-butoxide (55.47 mL of a 1 M solution in THF) with the modification that crude product mixture was purified by normal phase prep HPLC on silica gel (eluting with 2 N ammonia in methanol/chloroform in a 66-minute gradient from 0:100 to 7:93) to provide 20.87 g of tert-butyl 3-benzyloxy-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate. Material from a different run was used in Part I.

reactant | tert-butyl 2-[7-benzyloxy-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethylcarbamate | 50.43 mmol, 23.55 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCNC(OC(C)(C)C)=O)CCl | C25H27ClN4O3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 3-benzyloxy-10,11-dihydropyrazino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(8H)-carboxylate | 20.87 g | C(C1=CC=CC=C1)OC1=CC=C2C3=C(C=NC2=C1)N=C1N3CCN(C1)C(=O)OC(C)(C)C | C25H26N4O3
